US04667032
6-(1-Propyl amino)-5H-benzo[a]phenothiazin-5-one-7,7-dioxide
To a suspension of 5-hydroxy-12H-benzo[a]phenothiazine-7,7-dioxide (594 mg) in THF (10 ml) was added 2,3-dichloro 5,6-dicyano-1,4-benzoquinone (1.021 gram). The mixture was stirred at room temperature for 2 minutes, then there was added n-propyl amine (0.2 ml). The stirring was continued for 0.5 hour, then the mixture was evaporated to dryness. To the residue was added 50 ml dichloromethane and the mixture was stirred for 15 minutes and filtered. The filtrate was evaporated to dryness and the residue crystallized from a mixture of toluene and hexane to afford the title compound (442 mg) as a red-brown crystalline solid, m.p. 149°-151° C. (dec.).

reactant | 5-hydroxy-12H-benzo[a]phenothiazine-7,7-dioxide | 594 mg | OC1=C2C(=C3NC4=CC=CC=C4S(C3=C1)(=O)=O)C=CC=C2 | C16H11NO3S
reactant | 2,3-dichloro 5,6-dicyano-1,4-benzoquinone | 1.021 gram | ClC=1C(C(=C(C(C1Cl)=O)C#N)C#N)=O | C8Cl2N2O2
reactant | n-propyl amine | 0.2 ml | C(CC)N | C3H9N
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 6-(1-Propyl amino)-5H-benzo[a]phenothiazin-5-one-7,7-dioxide | 442 mg | C(CC)NC=1C(C2=C(C3=NC4=CC=CC=C4S(C13)(=O)=O)C=CC=C2)=O | C19H16N2O3S
